US07786307B2
a) tert-Butyl (1(S)-[2-(2,2-dimethylpropionylamino)-1(S)-hydroxyethyl]-3(S)-{[2-(3-methoxy-propoxy)benzoylamino]methyl}-4-methylpentyl)carbamate
The stirred solution of 0.030 g of tert-butyl (1(S)-(2-amino-1(S)-hydroxyethyl)-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}4-methylpentyl)carbamate in 0.60 ml of ethyl acetate is admixed successively with 0.60 ml of 2M sodium carbonate solution and 0.012 ml of pivaloyl chloride and stirred at room temperature over 1 hour. The reaction solution is admixed with water and extracted with ethyl acetate (2×). The combined organic phases are washed with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a colourless oil. Rf=0.45 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=4.71 (gradient I)

reactant | tert-butyl (1(S)-(2-amino-1(S)-hydroxyethyl)-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}4-methylpentyl)carbamate | 0.030 g | NC[C@H](O)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C25H43N3O6
reactant | sodium carbonate | 2M, 0.60 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | pivaloyl chloride | 0.012 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | O | H2O
solvent | ethyl acetate | 0.60 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (1(S)-[2-(2,2-dimethylpropionylamino)-1(S)-hydroxyethyl]-3(S)-{[2-(3-methoxy-propoxy)benzoylamino]methyl}-4-methylpentyl)carbamate | CC(C(=O)NC[C@H](O)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O)(C)C | C30H51N3O7
